US07230031B2
N-(7-{4-hydroxy-3-[2-(4-hydroxyphenyl)ethyl]phenoxy}-6-methylindan-4-yl}malonamic acid (Compound 90)
Ethyl N-(7-{4-methoxy-3-[2-(4-methoxyphenyl)ethyl]phenoxy}-6-methylindan-4-yl)malonamate (40 mg) was dissolved in dichloromethane (5 mL). Adding dropwise a 1 mol/L solution of boron tribromide in dichloromethane (1 mL) under dry ice/acetone-cooling, the solution was stirred at room temperature for 24 hours. To the reaction mixture was added dropwise methanol (5 mL) under ice-cooling with stirring. Adding diluted hydrochloric acid, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. To the residue were added methanol (5 mL) and a 1 mol/L aqueous solution of sodium hydroxide (5 mL), and the mixture was stirred under an argon atmosphere at 50° C. for 30 min. The reaction mixture was evaporated under reduced pressure to dryness and water (10 mL) was added thereto. The mixture was washed with diethyl ether (10 mL) twice. To the aqueous layer were added 1 mol/L hydrochloric acid (20 mL) and brine (10 mL), and the aqueous layer was extracted with ethyl acetate (10 mL) twice. The organic layer was dried over anhydrous magnesium sulfate and evaporated-under reduced pressure to dryness to give the title compound (20 mg).

reactant | Ethyl N-(7-{4-methoxy-3-[2-(4-methoxyphenyl)ethyl]phenoxy}-6-methylindan-4-yl)malonamate | 40 mg | COC1=C(C=C(OC=2C(=CC(=C3CCCC23)NC(CC(=O)OCC)=O)C)C=C1)CCC1=CC=C(C=C1)OC | C31H35NO6
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 5 mL | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(7-{4-hydroxy-3-[2-(4-hydroxyphenyl)ethyl]phenoxy}-6-methylindan-4-yl}malonamic acid | 20 mg | OC1=C(C=C(OC=2C(=CC(=C3CCCC23)NC(CC(=O)O)=O)C)C=C1)CCC1=CC=C(C=C1)O | C27H27NO6
